US08084620B2
Step 2 A suspension of 2-(3-bromo-2-methylphenyl)isoquinoline-1,3(2H,4H)-dione (630 mg, 1.908 mmol) in methanol (100 mL) was treated with sodium borohydride (217 mg, 5.72 mmol) at rt. After 1.5 h, additional sodium borohydride (120 mg) was added. After 7 h, the mixture was concentrated and the residue was partitioned between water and DCM. The organic phase was dried and concentrated to give 2-(3-bromo-2-methylphenyl)-3-hydroxy-3,4-dihydroisoquinolin-1(2H)-one as a light yellow foam (600 mg, 95%), used without further purification. Mass spectrum m/z 332, 334 (M+H)+.

reactant | 2-(3-bromo-2-methylphenyl)isoquinoline-1,3(2H,4H)-dione | 1.908 mmol, 630 mg | BrC=1C(=C(C=CC1)N1C(C2=CC=CC=C2CC1=O)=O)C | C16H12BrNO2
reactant | sodium borohydride | 5.72 mmol, 217 mg | [BH4-].[Na+]
reactant | sodium borohydride | 120 mg | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 2-(3-bromo-2-methylphenyl)-3-hydroxy-3,4-dihydroisoquinolin-1(2H)-one | 600 mg, 95% | BrC=1C(=C(C=CC1)N1C(C2=CC=CC=C2CC1O)=O)C | C16H14BrNO2
